US08735107B2
Exemplary Histidine Ammonia Lyase (HAL) Screening Assay
HAL enzyme activity can be determined as described in Baedeker & Schulz (Eur. J. Biochem 2002, 269, 1790-1797), wherein enzyme activity was determined as the rate of urocanate formation, measured spectrophotometrically at 277 nm. For a standard assay, the enzyme was preincubated at 25° C. for 5 min in 2.5 mL buffer containing 0.1 M pyrophosphate (pH 9.3), 10 μM ZnC12 and 2 mM glutathione. The reaction was started by adding 200 μL of 0.5 M histidine solution and then monitored for approximately 5 minutes.

reactant | urocanate | C1=C(NC=N1)/C=C/C(=O)O | C6H6N2O2
reactant | pyrophosphate | 0.1 M, pH 9.3 | [O-]P([O-])(=O)OP(=O)([O-])[O-]
reactant | glutathione | 2 mM | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
solvent | histidine | 0.5 M, 200 μL | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
product | Histidine Ammonia | N.N[C@@H](CC1=CNC=N1)C(=O)O | InChI=1S/C6H9N3O2.H3N/c7-5(6(10)11)1-4-2-8-3-9-4;/h2-3,5H,1,7H2,(H,8,9)(H,10,11);1H3/t5-;/m0./s1
